US06087380
e) 1-Methyl-2-[N-(3-amidino-pyridin-6-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-Methyl-2-[N-(3-cyano-pyridin-6-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 38% of theory, C28H28N8O3 (500.6) Mass spectrum: (M+H)+ =501

reactant | 1-Methyl-2-[N-(3-cyano-pyridin-6-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=N2)C#N)C)C=C1)CCC(=O)OCC | C26H25N7O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(3-amidino-pyridin-6-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 38% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=N2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C26H28N8O3.ClH/c1-3-37-24(35)11-13-34(22-6-4-5-12-29-22)26(36)17-7-9-20-19(14-17)32-23(33(20)2)16-31-21-10-8-18(15-30-21)25(27)28;/h4-10,12,14-15H,3,11,13,16H2,1-2H3,(H3,27,28)(H,30,31);1H
